US08022062B2
Add hydroxylamine hydrochloride (19 mg, 0.27 mmol) and pyridine (0.04 mL, 0.54 mmol) to a solution of 6-(4-acetylbenzylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (115 mg, 0.27 mmol) in ethanol (10 mL). Heat the mixture to reflux for 2 h. Remove the solvent in vacuo and partition the residue between DCM and 0.1N aqueous HCl. Dry the organic phase over Na2SO4, filter and concentrate. Dissolve the oil into the minimum amount of ether and add hexane to precipitate the solid. Filter to obtain 7-chloro-6-[4-(1-hydroxyiminoethyl)-benzylamino]3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a solid (12 mg, 94%) that was used without further purification. MS (ES+) m/z: 440 (M+H)+.

reactant | hydroxylamine hydrochloride | 0.27 mmol, 19 mg | Cl.NO
reactant | pyridine | 0.54 mmol, 0.04 mL | N1=CC=CC=C1 | C5H5N
reactant | 6-(4-acetylbenzylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.27 mmol, 115 mg | C(C)(=O)C1=CC=C(CNC2=C(C=CC=3CCN(CCC32)C(C(F)(F)F)=O)Cl)C=C1 | C21H20ClF3N2O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 7-chloro-6-[4-(1-hydroxyiminoethyl)-benzylamino]3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 12 mg, 94% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)C(C)=NO | C21H21ClF3N3O2
